US06110937
The (S)-3-(2,6-dimethylphenoxymethyl)-1-methylpiperidine (8.0 g) was dissolved in ether (500 mL) and treated with a 1M solution of hydrochloric acid in ether (37.7 mL). The thick white precipitate was isolated by filtration, washed with ether (75 mL), and dried to give (S)-3-(2,6-dimethylphenoxymethyl)-1-methylpiperidine hydrochloride (8.6 g, 93%), m.p. 149.8-151.3° C.

reactant | (S)-3-(2,6-dimethylphenoxymethyl)-1-methylpiperidine | 8.0 g | CC1=C(OC[C@@H]2CN(CCC2)C)C(=CC=C1)C | C15H23NO
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 500 mL | CCOCC | C4H10O
solvent | ether | 37.7 mL | CCOCC | C4H10O
product | (S)-3-(2,6-dimethylphenoxymethyl)-1-methylpiperidine hydrochloride | 8.6 g, 93% | Cl.CC1=C(OC[C@@H]2CN(CCC2)C)C(=CC=C1)C | InChI=1S/C15H23NO.ClH/c1-12-6-4-7-13(2)15(12)17-11-14-8-5-9-16(3)10-14;/h4,6-7,14H,5,8-11H2,1-3H3;1H/t14-;/m0./s1
